US05965589
A mixture of 4-isopropoxycinnamaldehyde (6.00 g), 2,4-thiazolidinedione (5.54 g), piperidine (2.69 g) and acetic acid (30 ml) was heated under reflux for 5 hours. The reaction mixture was concentrated under reduced pressure to give precipitated crystals of 5-(4-isopropoxycinnamylidene)-2,4-thiazolidinedione, and the crystals (4.40 g) were collected by filtration and washed with ethyl acetate. The crystals were dissolved in tetrahydrofuran (100 ml), 5% palladium-carbon (2.20 g) was added, and the mixture was subjected to catalytic hydrogenation at room temperature at a hydroaen pressure of 3.8 kgf/cm2. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel. The fractions eluted with ethyl acetate-chloroform (1:9, v/v) gave 5-[3-(4-isopropoxyphenyl)propyl]-2,4-thiazolidinedione (3.61 g, 39%) as an oil.

reactant | 4-isopropoxycinnamaldehyde | 6.00 g | C(C)(C)OC1=CC=C(C=CC=O)C=C1 | C12H14O2
reactant | 2,4-thiazolidinedione | 5.54 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidine | 2.69 g | N1CCCCC1 | C5H11N
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 5-[3-(4-isopropoxyphenyl)propyl]-2,4-thiazolidinedione | 3.61 g, 39% | C(C)(C)OC1=CC=C(C=C1)CCCC1C(NC(S1)=O)=O | C15H19NO3S
